US06087392
A solution of 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid N-benzyloxyamide(11.28 grams, 0.0225 mole) in ethyl acetate (600 mL) was treated with 5% palladium on barium sulfate (5.0 grams) and hydrogenated in a Parr™ shaker at 3 atmospheres pressure for 18 hours. After filtration through nylon (pore size 0.45 mm) to remove the catalyst, the filter pad was rinsed with methanol. Combined filtrate and rinse were evaporated and the residue taken up in hot methanol. Cooling afforded crude 4-[4-(4-fluorophenoxy)benzenesulfonylamino]-tetrahydropyran-4-carboxylic acid hydroxyamide (5.941 grams, 64%, mp 176-177° C.) as a white crystalline solid. The mother liquor was evaporated and the residue crystallized from 50% methanoldichloromethane to give additional 4-[4-(4-fluorophenoxy)benzenesulfonylamino]-tetrahydropyran-4-carboxylic acid hydroxyamide (0.660 grams, mp 184-185° C.) as white needles. The mother liquor was again evaporated and the residue crystallized from methanol/dichloromethane to give additional product (1.861 grams, mp 176-177° C.). Recrystallization of the first lot from methanol/dichloromethane provided analytically pure 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid hydroxyamide (3.091 grams, mp 184-185° C.).

reactant | 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid N-benzyloxyamide | 0.0225 mole, 11.28 grams | C(C1=CC=CC=C1)ONC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C25H25FN2O6S
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on barium sulfate | 5.0 grams | [Pd] | Pd
product | 4-[4-(4-fluorophenoxy)benzenesulfonylamino]-tetrahydropyran-4-carboxylic acid hydroxyamide | 0.660 grams | ONC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C18H19FN2O6S
